US04483786
3-Ethyl-1-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene-2-carboxaldehyde (48.2 g, 0.185 mol) was stirred with toluene (650 mL), and potassium hydroxide 85% (19.5 g, 0.296 mol) was added in one portion. The mixture was heated to 45° C. and dimethyl sulfate (35 g, 0.278 mol) was added during 0.5 h at 45°-50° C. The heating was continued for an additional 0.5 h at 50° C. The mixture was cooled to 20° C., neutralized with 5% hydrochloric acid, washed with water (50 mL), and then finally washed with brine (30 mL). Solvent was removed by distillation and the residue distilled to give 3-ethyl-1-methoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene-2-carboxaldehyde (40.6 g), GLC purity 98%. Crystallization from hexane gave 27 g of material, GLC purity 99%, exhibiting the expected spectral data.

reactant | 3-Ethyl-1-hydroxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene-2-carboxaldehyde | 0.185 mol, 48.2 g | C(C)C=1C(=C(C=2C(CCC(C2C1)(C)C)(C)C)O)C=O | C17H24O2
reactant | potassium hydroxide | 0.296 mol, 19.5 g | [OH-].[K+]
reactant | dimethyl sulfate | 0.278 mol, 35 g | S(=O)(=O)(OC)OC | C2H6O4S
reactant | hydrochloric acid | Cl | ClH
solvent | toluene | 650 mL | C1(=CC=CC=C1)C | C7H8
product | 3-ethyl-1-methoxy-5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalene-2-carboxaldehyde | 40.6 g | C(C)C=1C(=C(C=2C(CCC(C2C1)(C)C)(C)C)OC)C=O | C18H26O2
